US09303033B2
Hydantoin (366 mg, 3.7 mmol) and 7-(cyclopropylamino)-3-formyl-5-(methylthio)pyrazolo[1,5-a]pyrimidine-6-carbonitrile (1 g, 3.7 mmol) were dissolved in ethanol (18.5 mL) along with piperidine (3.7 mL, 3.7 mmol). The reaction was heated at 80° C. After 10 hours, the reaction was cooled to r.t., diluted with water, and the precipitate was collected and washed with water, 1:1 ethanol:water, then ethanol. The yellow solid was dried in vacuo to give the intermediate, 7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)-5-(methylthio)pyrazolo[1,5-a]pyrimidine-6-carbonitrile (1.1 g, 83% yield). LCMS (M+1=356)

reactant | Hydantoin | 3.7 mmol, 366 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | 7-(cyclopropylamino)-3-formyl-5-(methylthio)pyrazolo[1,5-a]pyrimidine-6-carbonitrile | 3.7 mmol, 1 g | C1(CC1)NC1=C(C(=NC=2N1N=CC2C=O)SC)C#N | C12H11N5OS
reactant | piperidine | 3.7 mmol, 3.7 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 18.5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)-5-(methylthio)pyrazolo[1,5-a]pyrimidine-6-carbonitrile | 1.1 g, 83% yield | C1(CC1)NC1=C(C(=NC=2N1N=CC2C=C2NC(NC2=O)=O)SC)C#N | C15H13N7O2S
